US04735952
A mixture of 4-chloro-7-(trifluoromethyl)quinoline (0.32 g) and 1-(4-aminobenzoyl)-4-[(4-fluorophenyl)hydroxymethyl]piperidine (0.45 g) in dry ethanol (10 ml) was stirred under reflux for 4 hours and concentrated to dryness in vacuo. The residue was recrystallized from a mixture of ethyl acetate and isopropanol to give 4-[(4-fluorophenyl)hydroxymethyl]-1-[4-[[7-(trifluoromethyl)-4-quinolyl]amino]benzoyl]piperidine hydrochloride (0.65 g) as pale yellow powder.

reactant | 4-chloro-7-(trifluoromethyl)quinoline | 0.32 g | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | 1-(4-aminobenzoyl)-4-[(4-fluorophenyl)hydroxymethyl]piperidine | 0.45 g | NC1=CC=C(C(=O)N2CCC(CC2)C(O)C2=CC=C(C=C2)F)C=C1 | C19H21FN2O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[(4-fluorophenyl)hydroxymethyl]-1-[4-[[7-(trifluoromethyl)-4-quinolyl]amino]benzoyl]piperidine hydrochloride | 0.65 g | Cl.FC1=CC=C(C=C1)C(C1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O)O | InChI=1S/C29H25F4N3O2.ClH/c30-22-6-1-18(2-7-22)27(37)19-12-15-36(16-13-19)28(38)20-3-8-23(9-4-20)35-25-11-14-34-26-17-21(29(31,32)33)5-10-24(25)26;/h1-11,14,17,19,27,37H,12-13,15-16H2,(H,34,35);1H
